US05264454
To a mixture of ethyl 4-(2-methylphenyl)-2-oxo-1,2,7,8-tetrahydro-6H-cyclopenta[g]quinoline-3-carboxylate (3.0 g), potassium carbonate (1.43 g) and DMF (30 ml) was added methyl iodide (0.65 ml) dropwise. The mixture was stirred at room temperature for 10 hours, after which water was added to the reaction mixture to give crystals of ethyl 1-methyl-4-(2-methylphenyl)-2-oxo-1,2,7,8-tetrahydro-6H-cyclopenta[g]quinoline-3-carboxylate (2.95 g, 94.6%). Recrystallization from ethyl ether-isopropyl ether gave colorless needles, m.p. 134°-135° C.

reactant | ethyl 4-(2-methylphenyl)-2-oxo-1,2,7,8-tetrahydro-6H-cyclopenta[g]quinoline-3-carboxylate | 3.0 g | CC1=C(C=CC=C1)C1=C(C(NC2=CC3=C(C=C12)CCC3)=O)C(=O)OCC | C22H21NO3
reactant | potassium carbonate | 1.43 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 30 ml | CN(C)C=O | C3H7NO
reactant | methyl iodide | 0.65 ml | CI | CH3I
solvent | water | O | H2O
product | ethyl 1-methyl-4-(2-methylphenyl)-2-oxo-1,2,7,8-tetrahydro-6H-cyclopenta[g]quinoline-3-carboxylate | 2.95 g, 94.6% | CN1C(C(=C(C2=CC3=C(C=C12)CCC3)C3=C(C=CC=C3)C)C(=O)OCC)=O | C23H23NO3
